US05571775
20. Preparation of 8-Amino-2-benzylthio-5,7-dichloro[1,2,4]triazolo[1,5-a]pyridine
8-Amino-2-benzylthio[1,2,4]triazolo[1,5-a]pyridine (20.0 g, 0.078 mol), N-chlorosuccinimide (10.4 g, 0.078 mol) and carbon tetrachloride were combined and heated to reflux with stirring for 1 hour. The reaction mixture was cooled, more N-chlorosuccinimide (10.4 g) was added, and the reaction heated to reflux with stirring for another hour. The reaction mixture was then cooled and filtered. The filtrate was concentrated by evaporation under reduced pressure and the residue obtained was purified by column chromatography on silica gel eluting with dichloromethane. The product fractions were concentrated by evaporation under reduced pressure and the residues were combined and mixed with ether. The insoluble solids were collected by filtration and dried to obtain 18.0 g (71 percent of theory) of the title compound as a light tan powder melting at 118°-119° C.

reactant | 8-Amino-2-benzylthio[1,2,4]triazolo[1,5-a]pyridine | 0.078 mol, 20.0 g | NC=1C=2N(C=CC1)N=C(N2)SCC2=CC=CC=C2 | C13H12N4S
reactant | N-chlorosuccinimide | 0.078 mol, 10.4 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | N-chlorosuccinimide | 10.4 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | 8-Amino-2-benzylthio-5,7-dichloro[1,2,4]triazolo[1,5-a]pyridine | NC=1C=2N(C(=CC1Cl)Cl)N=C(N2)SCC2=CC=CC=C2 | C13H10Cl2N4S
